US07842685B2
Thiophosgene (22 mL, 289 mmol) was added to a suspension of sodium carbonate (61.0 g, 579 mmol) and 4-bromo-2-fluoroaniline (50.0 g, 263 mmol) in CHCl3 (1 L). The reaction mixture was stirred overnight at RT, the inorganic salts were filtered off, and the filtrate was concentrated to give 4-bromo-2-fluoro-1-isothio-cyanatobenzene as a tan solid which was converted to 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-bromobenzo[d]thiazole as described in Reference A above.

reactant | Thiophosgene | 289 mmol, 22 mL | C(=S)(Cl)Cl | CCl2S
reactant | sodium carbonate | 579 mmol, 61.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-2-fluoroaniline | 263 mmol, 50.0 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | CHCl3 | 1 L | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-fluoro-1-isothio-cyanatobenzene | BrC1=CC(=C(C=C1)N=C=S)F | C7H3BrFNS
